US04581356
Sodium cyanoborohydride (0.19 g) was added portionwise to a suspension of 6-(1,2,3,4-tetrahydroquinolin-6-yl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.74 g), 36% aqueous formaldehyde (0.34 ml), acetic acid (1 ml) and methanol (3 ml) at room temperature. After stirring for 0.5 hours at the same temperature, the resultant precipitates were collected by filtration, washed with methanol, dried, and recrystallized from 70% aqueous ethanol to give 0.66 g of 6-(1-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one.

reactant | Sodium cyanoborohydride | 0.19 g | C(#N)[BH3-].[Na+]
reactant | 6-(1,2,3,4-tetrahydroquinolin-6-yl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.74 g | N1CCCC2=CC(=CC=C12)C=1C(NC(NN1)=O)C | C13H16N4O
reactant | formaldehyde | 0.34 ml | C=O | CH2O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 3 ml | CO | CH4O
product | 6-(1-methyl-1,2,3,4-tetrahydroquinolin-6-yl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.66 g | CN1CCCC2=CC(=CC=C12)C=1C(NC(NN1)=O)C | C14H18N4O
